US04259969
Preparation of 2-(2-Hydroxy-2-methylheptyl)-3,5,6-trimethylpyrazine
The preparation is carried out in the manner described in Example VII using 10.1 grams (0.1 mole) of diisopropylamine in 80 milliliters of ether, 0.95 mole of butyllithium, 13.6 grams (0.1 mole) of tetramethylpyrazine, and 12.8 grams (0.1 mole) of 2-heptanone. The reaction is worked up as before, and the product is isolated by chromatography on silica gel.

reactant | diisopropylamine | 0.1 mole, 10.1 grams | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 0.95 mole | C(CCC)[Li]
reactant | tetramethylpyrazine | 0.1 mole, 13.6 grams | CC1=C(N=C(C(=N1)C)C)C | C8H12N2
reactant | 2-heptanone | 0.1 mole, 12.8 grams | CC(CCCCC)=O | C7H14O
solvent | ether | 80 milliliters | CCOCC | C4H10O
product | 2-(2-Hydroxy-2-methylheptyl)-3,5,6-trimethylpyrazine | OC(CC1=NC(=C(N=C1C)C)C)(CCCCC)C | C15H26N2O
